US06322775B1
1-benzyl-4,5-pyrazolinedione;
1-benzyl-3-methyl-4,5-pyrazolinedione; 1-benzyl-3-phenyl-4,5-pyrazolinedione; 1-benzyl-3-(4′-methylphenyl)-4,5-pyrazolinedione; 1-benzyl-3-(3′-methoxyphenyl)-4,5-pyrazolinedione; 1-benzyl-3-(4′-methoxyphenyl)-4,5-pyrazolinedione; 1-benzyl-3-(3′-nitrophenyl)-4,5-pyrazolinedione;

reactant | 1-benzyl-3-methyl-4,5-pyrazolinedione | C(C1=CC=CC=C1)N1NC(C(C1=O)=O)C | C11H12N2O2
reactant | 1-benzyl-3-phenyl-4,5-pyrazolinedione | C(C1=CC=CC=C1)N1NC(C(C1=O)=O)C1=CC=CC=C1 | C16H14N2O2
reactant | 1-benzyl-3-(4′-methylphenyl)-4,5-pyrazolinedione | C(C1=CC=CC=C1)N1NC(C(C1=O)=O)C1=CC=C(C=C1)C | C17H16N2O2
reactant | 1-benzyl-3-(3′-methoxyphenyl)-4,5-pyrazolinedione | C(C1=CC=CC=C1)N1NC(C(C1=O)=O)C1=CC(=CC=C1)OC | C17H16N2O3
reactant | 1-benzyl-3-(4′-methoxyphenyl)-4,5-pyrazolinedione | C(C1=CC=CC=C1)N1NC(C(C1=O)=O)C1=CC=C(C=C1)OC | C17H16N2O3
reactant | 1-benzyl-3-(3′-nitrophenyl)-4,5-pyrazolinedione | C(C1=CC=CC=C1)N1NC(C(C1=O)=O)C1=CC(=CC=C1)[N+](=O)[O-] | C16H13N3O4
product | 1-benzyl-4,5-pyrazolinedione | C(C1=CC=CC=C1)N1NCC(C1=O)=O | C10H10N2O2
